US06734191B2
Preparation of N,N-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride
To a solution of pyrazole (1.01 g, 14.8 mmol) and dimethylcyanamide (1.20 mL, 14.8 mmol) in 1,4-dioxane (15 mL) was added HCl (4.0 N in 1,4-dioxane, 3.8 mL, 15.2 mmol) and the resultant mixture was heated to reflux for 3 hours. The reaction mixture was cooled to room temperature and diluted with dry ether (15 mL) to precipitate a yellow solid. The resultant precipitate was allowed to settle to the bottom of the flask (overnight) and the supernatant solution was decanted. The solid was dried under vacuum and provided the title compound (2.01 g, 78%). ES-MS m/z 139 (M+H).

reactant | pyrazole | 14.8 mmol, 1.01 g | N1N=CC=C1 | C3H4N2
reactant | dimethylcyanamide | 14.8 mmol, 1.20 mL | CN(C#N)C | C3H6N2
reactant | HCl | 15.2 mmol, 4.0 N, 3.8 mL | Cl | ClH
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ether | 15 mL | CCOCC | C4H10O
product | N,N-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride | 2.01 g, 78% | Cl.CN(C(=N)N1N=CC=C1)C | InChI=1S/C6H10N4.ClH/c1-9(2)6(7)10-5-3-4-8-10;/h3-5,7H,1-2H3;1H
